### PR TITLE
[Merged by Bors] - feat(ModelTheory): Semilinear sets are closed under intersection, difference and complement

### PR DESCRIPTION
**Pull request by staroperator**
Separated from #27100. This PR proves that semilinear sets in any commutative monoid are closed under intersection, set difference and complement (requires finitely generated). We prove these results on `ℕ ^ k` first (which are private) and then generalize to any monoid.

---

- [x] depends on: #27082
- [x] depends on: #27086
- [x] depends on: #27088
- [x] depends on: #27096
- [x] depends on: #27342
- [x] depends on: #27955
- [x] depends on: #28670
- [x] depends on: #29032
- [x] depends on: #29034
- [x] depends on: #29035
- [x] depends on: #29749
- [x] depends on: #29784
- [x] depends on: #29793
- [x] depends on: #30840
- [x] depends on: #31497

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,623 @@
...
+import Mathlib.Algebra.Order.Pi
+import Mathlib.Algebra.Order.Sub.Prod
+import Mathlib.Algebra.Order.Sub.Unbundled.Hom
+import Mathlib.Data.Matrix.ColumnRowPartitioned
+import Mathlib.Data.Pi.Interval
+import Mathlib.Data.Rat.Floor
+import Mathlib.LinearAlgebra.Matrix.ToLin
+import Mathlib.ModelTheory.Arithmetic.Presburger.Semilinear.Defs
+import Mathlib.RingTheory.Finiteness.Cardinality
+import Mathlib.RingTheory.Localization.Module
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean:20]: Do you really need all these imports?

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean [hunk 2]
```diff
@@ -0,0 +1,623 @@
...
+
+/-!
+# Semilinear sets in `ℕ ^ k`
+
+This file proves that the semilinear sets in `ℕ ^ k` are closed under intersection, complement and
+set difference.
+
+## Main Results
+
+- `Nat.addSubmonoidFG_eqLocusM`: a verison of *Gordan's lemma*, `AddMonoidHom.eqLocusM` is finitely
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]:
```suggestion
- `Nat.addSubmonoidFG_eqLocusM`: a version of *Gordan's lemma*, `AddMonoidHom.eqLocusM` is finitely
```

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean [hunk 3]
```diff
@@ -0,0 +1,623 @@
...
+      · exact (tsub_pos_of_lt hz₁).ne'
+      · exact tsub_le_self
+      · rw [le_tsub_iff_le_tsub (le_refl _) hz₁.le, tsub_self]
+        exact (pos_of_ne_zero hz₃).not_ge
+    · exact ih _ hz₂ hz₃ hz₁.le hz₁.not_ge
+
+/-- A verison of *Gordan's lemma*: `AddMonoidHom.eqLocusM` is finitely generated in `ℕ ^ k`. -/
+theorem Nat.addSubmonoidFG_eqLocusM [Finite ι] [IsCancelAdd M] (f g : (ι → ℕ) →+ M) :
+    (f.eqLocusM g).FG :=
+  addSubmonoidFG_of_subtractive (by simp_all)
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: This has nothing to do with model theory, right? Can you either prove the general Gordan's lemma or wait until we prove it for Toric? (that might take another month)

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 1 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean:20]: I do need

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean (hunk 3 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: This is called a version of Gordan's lemma in [wikipedia](https://en.wikipedia.org/wiki/Gordan%27s_lemma), but I don't think it's much related to the other versions (which might be what Toric will prove). Could you point me to what version of Gordan's lemma you will prove in Toric?

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: I feel this more like a direct corollary of Dickson's lemma, and I'm worrying reproving it from the general one would take more steps than 34 lines...

Comment (YaelDillies) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: Are you sure you can't at least generalise `ι → ℕ` to an arbitrary ordered monoid for which Dickson's lemma holds?

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: For that, I can generalize it to
```lean
theorem AddSubmonoid.fg_of_subtractive [Finite ι] {α : ι → Type*} [∀ i, LinearOrder (α i)]
  [∀ i, IsWellOrder (α i) (· < ·)] [∀ i, AddCommMonoid (α i)] [∀ i, CanonicallyOrderedAdd (α i)]
  [∀ i, IsOrderedCancelAddMonoid (α i)] {P : AddSubmonoid (∀ i, α i)}
  (hP : ∀ x ∈ P, ∀ y, x + y ∈ P → y ∈ P) : P.FG
```
is that enough?

Comment (YaelDillies) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: No, that's not it. I am thinking of something like
```
instance [Finite ι] {M : ι → Type*} [∀ i, LinearOrder (M i)]
  [∀ i, IsWellOrder (M i) (· < ·)] [∀ i, AddCommMonoid (M i)] [∀ i, CanonicallyOrderedAdd (M i)]
  [∀ i, IsOrderedCancelAddMonoid (M i)] : IsPartialWellOrder (∀ i, M i) := sorry

theorem AddSubmonoid.fg_of_subtractive {M : Type*} [PartialOrder M]
  [AddCommMonoid M] [IsOrderedAddMonoid M] [IsPartialWellOrder M] {P : AddSubmonoid M}
  (hP : ∀ x ∈ P, ∀ y, x + y ∈ P → y ∈ P) : P.FG
```
where `IsPartialWellOrder α` is a currently missing typeclass equivalent to `(.univ : Set α).IsPWO`.

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: Oh, that is [`WellQuasiOrderedLE`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/WellQuasiOrder.html#WellQuasiOrderedLE). Is
```lean
theorem AddSubmonoid.fg_of_subtractive {α : Type*} [PartialOrder α] [WellQuasiOrderedLE α]
    [AddCommMonoid α] [AddRightReflectLE α] [AddLeftReflectLT α] [CanonicallyOrderedAdd α]
    {P : AddSubmonoid α} (hP : ∀ x ∈ P, ∀ y, x + y ∈ P → y ∈ P) : P.FG
```
what you want?

Comment (YaelDillies) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: That looks pretty good, yes! Probably some of the assumptions are redundant. Eg `[PartialOrder α] [WellQuasiOrderedLE α] [AddCancelCommMonoid α] [CanonicallyOrderedAdd α]` is a more idiomatic set of assumptions

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: I have updated the generalized version, but let me know if there is a better place for it.

Comment (YaelDillies) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: Definitely move it to an earlier file! What does `#min_imports` with just that lemma above it give? Is one of the files in that list a good candidate?

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: Hmm, `min_imports` gives
```
import Mathlib.Algebra.Order.Group.Nat
import Mathlib.Algebra.Order.Pi
import Mathlib.GroupTheory.Finiteness
```
Would `GroupTheory.Finiteness` or a new file under that path a good candidate? (It's a bit amazing that `GroupTheory.Finiteness` imports `Order.WellFoundedSet`.)

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: (If I further remove results on `Nat`, only `GroupTheory.Finiteness` is needed.)

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: I put them in `GroupTheory.Finiteness` in #30840

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean [hunk 4]
```diff
@@ -0,0 +1,585 @@
...
+variable {M ι κ : Type*} [AddCommMonoid M]
+
+open Set Pointwise AddSubmonoid Matrix
+
+/-! ### Semilinear sets in `ℕ ^ k` are closed under intersection -/
+
+/-- The set of solutions of a linear equation `a + f x = b + g y` in `ℕ ^ k` is semilinear. -/
+theorem Nat.isSemilinearSet_setOf_eq [Finite ι] [IsCancelAdd M] {F : Type*} [FunLike F (ι → ℕ) M]
+    [AddMonoidHomClass F (ι → ℕ) M] (a b : M) (f g : F) :
+    IsSemilinearSet { x | a + f x = b + g x } := by
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: Can you now generalise this away from `Nat`?

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: I can generalize it to
```lean
theorem isSemilinearSet_setOf_eq {M : Type u_1} {N : Type u_2} [AddCommMonoid M] [AddCommMonoid N]
  [AddMonoid.FG M] [IsCancelAdd N] {F : Type u_4} [FunLike F M N] [AddMonoidHomClass F M N] (a b : N) (f g : F) :
  IsSemilinearSet {x | a + f x = b + g x}
```
in #27789 (I will add that soon later), which is actually more general since it does not require well-quasi-order. But this `Nat` version is necessary to prove that.

Comment (YaelDillies) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: Then shouldn't this version be private?

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: Hmm, it should be a private API for the whole folder but not for this file.

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: I'm a bit struggling on how to deal with these `Nat` APIs. They are all intermediate lemmas towards the general ones in in #27789, but seems unavoidable.

I'm thinking the following approaches:
1. leave them as is, and say in docstring that do not use these APIs.
2. mark `Nat` APIs as `private`, and then `open private` in file of the general ones. Note that there is no precedents in Mathlib to `open private` on non-meta APIs.
3. merge this PR with #27789, and mark `Nat` APIs as `private`. This will result in a 700+ lines file, though.

@YaelDillies How do you think?

Comment (YaelDillies) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: 700+ lines is still short, so I would go for the latter (I assume you mean merging *files* rather than *PRs*?)

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: Yeah, I just mean merging into one single file.

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Nat.lean]: It's 703 lines, actually 😄

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,706 @@
...
+/-!
+# Semilinear sets are closed under intersection, set difference and complement
+
+This file proves that the semilinear sets in a cancellative monoid are closed under intersection and
+set difference. They are also closed under complement if the monoid is finitely generated. We prove
+these results on `ℕ ^ k` first (which are private APIs in this file) and then generalize to
+cancellative monoids.
+
+Note: these results can be further generalized to non-cancellative monoids; see
+[eilenberg1969](eilenberg1969).
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: How much harder would this be to formalise?

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,706 @@
...
+    IsLinearSet s ↔ ∃ (a : M) (n : ℕ) (f : (Fin n → ℕ) →+ M), s = a +ᵥ Set.range f := by
+  simp_rw [isLinearSet_iff_exists_fg_eq_vadd, fg_iff_exists_fin_addMonoidHom,
+    ← AddMonoidHom.coe_mrange]
+  refine exists_congr fun a => ⟨fun ⟨P, ⟨n, f, hf⟩, hs⟩ => ⟨n, f, ?_⟩, fun ⟨n, f, hs⟩ =>
+    ⟨_, ⟨n, f, rfl⟩, ?_⟩⟩
+  · rw [hf, hs]
+  · rw [hs]
+
+theorem Nat.isLinearSet_iff_exists_matrix {s : Set (ι → ℕ)} :
+    IsLinearSet s ↔ ∃ (v : ι → ℕ) (n : ℕ) (A : Matrix ι (Fin n) ℕ), s = { v + A *ᵥ x | x } := by
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: Is this a lemma you generalise later?

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,706 @@
...
+  refine ⟨P₁ ⊔ P₂, (AddSubmonoid.inclusion le_sup_left) '' s₁',
+    (AddSubmonoid.inclusion le_sup_right) '' s₂', hP₁.sup hP₂, hs₁'.image _, ?_, hs₂'.image _, ?_⟩
+    <;> simp_rw [image_image, AddSubmonoid.coe_inclusion]
+
+/-! ### Semilinear sets in `ℕ ^ k` are closed under intersection -/
+
+/- The set of solutions of a linear equation `a + f x = b + g y` in `ℕ ^ k` is semilinear. -/
+private theorem Nat.isSemilinearSet_setOf_eq [Finite ι] [IsCancelAdd M] {F : Type*}
+    [FunLike F (ι → ℕ) M] [AddMonoidHomClass F (ι → ℕ) M] (a b : M) (f g : F) :
+    IsSemilinearSet { x | a + f x = b + g x } := by
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: Technically, `f` and `g` need't come from the same type of add monoid homs, right?

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,706 @@
...
+
+private theorem Nat.isSemilinearSet_biInter_finset [Finite κ] {s : Finset ι} {t : ι → Set (κ → ℕ)}
+    (ht : ∀ i ∈ s, IsSemilinearSet (t i)) : IsSemilinearSet (⋂ i ∈ s, t i) :=
+  isSemilinearSet_biInter s.finite_toSet ht
+
+/-!
+### Semilinear sets in `ℕ ^ k` are closed under complement and set difference
+
+We first show that the complement of a proper linear set `s` in `ℕ ^ k` is semilinear, through
+several private defintions:
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]:
```suggestion
several private definitions:
```

**Review by YaelDillies — COMMENTED** [review]
Sorry, I realise now that I might not be the right person to ask for a review since I know nothing about the mathematics. Do you have a quick explanation of what is going on mathematically, or do you know a reviewer who would be better suited for this task?

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 5 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: According to Eilenberg, this would require a definition of monoid ideal (which is a set $I$ such that $\forall x\in M.\forall y\in I.x+y\in I$) and showing $\mathbb N^k$ has Noetherian property on monoid ideals. I don't need such generalization right now in #27100, so I'd like to leave this as a plan in future.

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 6 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: This is not, it's a technical lemma. `isLinearSet_iff_exists_fin_addMonoidHom` is the general one, but matrices are easier to manipulate in many cases.

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 7 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: That's right! Will generalize it later.

**Comment by staroperator** [comment]
> Sorry, I realise now that I might not be the right person to ask for a review since I know nothing about the mathematics. Do you have a quick explanation of what is going on mathematically, or do you know a reviewer who would be better suited for this task?

Sorry I don't know any other reviewer who can review this PR 😢 Let me try to ask in Zulip.

The mathematics is not hard to understand, though. Let me explain this briefly:
1. intersection: First, `Nat.isLinearSet_iff_exists_matrix` shows any semilinear set can be represented as ${Ax+b}$. Therefore, the intersection of two semilinear sets corresponds to the solution of linear equations $z=Ax+b=Cy+d$. By `Nat.isSemilinearSet_setOf_eq`, solutions of linear equations is a semilinear set.
2. complement: It suffices to show complement of a proper linear set (which is $a+span(B)$ where $B$ is linear independent) is semilinear. To prove this, we first extend $B$ to a $\mathbb Q$-basis, which becomes a lattice over $\mathbb N^k$. The universe $\mathbb N^k$ is decomposed into three parts as follows:
BE892A71-7C9B-4F18-8C9C-5692BA64D012_1_201_a
And to prove the complement of the blue (the proper linear set) is semilinear, it suffices to prove the other parts are semilinear. (Actually it's four parts when $B$ is extended).
3. generalization: for any cancellative monoid, if it is finitely generated then we have a surjective homomorphism $\phi:\mathbb N^k\to M$. Therefore, the properties in $\mathbb N^k$ are transferred to $M$ via $\phi$. Even if $M$ is not finitely generated, we can find a finitely generated submonoid that includes the sets we are interested in (which is what `IsSemilinearSet.exists_fg_eq_subtypeVal` does; it's just a technical lemma and I will move it down).

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,707 @@
...
+variable {M N ι κ : Type*} [AddCommMonoid M] [AddCommMonoid N]
+
+open Set Pointwise AddSubmonoid Matrix
+
+theorem isLinearSet_iff_exists_fin_addMonoidHom {s : Set M} :
+    IsLinearSet s ↔ ∃ (a : M) (n : ℕ) (f : (Fin n → ℕ) →+ M), s = a +ᵥ Set.range f := by
+  simp_rw [isLinearSet_iff_exists_fg_eq_vadd, fg_iff_exists_fin_addMonoidHom,
+    ← AddMonoidHom.coe_mrange]
+  refine exists_congr fun a => ⟨fun ⟨P, ⟨n, f, hf⟩, hs⟩ => ⟨n, f, ?_⟩, fun ⟨n, f, hs⟩ =>
+    ⟨_, ⟨n, f, rfl⟩, ?_⟩⟩
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]:
```suggestion
  congr with a
  refine ⟨fun ⟨P, ⟨n, f, hf⟩, hs⟩ => ⟨n, f, ?_⟩, fun ⟨n, f, hs⟩ => ⟨_, ⟨n, f, rfl⟩, ?_⟩⟩
```

**Comment by YaelDillies** [comment]
So, if I understand correctly, you do not want to generalise to non-cancellative monoids because you don't need it and it involves writing more API, but simultaneously the generalisation would avoid having to prove things about `ι → ℕ` first, right? This final point, to me, feels like a strong argument for doing the generalisation.

**Comment by staroperator** [comment]
Glad that I finally make the generalization! In fact, there is a minor mistake in Proposition 7.2 of Eilenberg's paper (they said "since $y+s\in S$" but that is to be proved) but this can be fixed.

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,787 @@
...
+public import Mathlib.Algebra.Order.Pi
+public import Mathlib.Algebra.Order.Sub.Prod
+public import Mathlib.Algebra.Order.Sub.Unbundled.Hom
+public import Mathlib.Data.Matrix.ColumnRowPartitioned
+public import Mathlib.Data.Pi.Interval
+public import Mathlib.Data.Rat.Floor
+public import Mathlib.LinearAlgebra.Matrix.ToLin
+public import Mathlib.ModelTheory.Arithmetic.Presburger.Semilinear.Defs
+public import Mathlib.RingTheory.Finiteness.Cardinality
+public import Mathlib.RingTheory.Localization.Module
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: Can you try making public as few of these as possible?

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,787 @@
...
+- `IsSemilinearSet.compl`: semilinear sets in a finitely generated commutative monoid are closed
+  under complement.
+
+## References
+
+* [Seymour Ginsburg and Edwin H. Spanier, *Bounded ALGOL-Like Languages*][ginsburg1964]
+* [Samuel Eilenberg and M. P. Schützenberger, *Rational Sets in Commutative Monoids*][eilenberg1969]
+-/
+
+@[expose] public section
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: Could you try leveraging the new module system by moving all your private declarations before all your public ones, and  moving the `@[expose] public section` between them?

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 10 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: That's a great point! Done.

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 11 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: That's a great point. I feel it's more readable to divide by topics instead of visibility, so now I get rid of `public section` and tag each individual theorem with `public` or `private`. And there is no need of `expose` here.

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,787 @@
...
+import Mathlib.Algebra.Order.Pi
+import Mathlib.Algebra.Order.Sub.Prod
+import Mathlib.Algebra.Order.Sub.Unbundled.Hom
+public import Mathlib.Data.Matrix.ColumnRowPartitioned
+import Mathlib.Data.Pi.Interval
+import Mathlib.Data.Rat.Floor
+import Mathlib.LinearAlgebra.Matrix.ToLin
+public import Mathlib.ModelTheory.Arithmetic.Presburger.Semilinear.Defs
+import Mathlib.RingTheory.Finiteness.Cardinality
+import Mathlib.RingTheory.Localization.Module
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean:20]: It looks like we're converging to the following style on Zulip
```suggestion
public import Mathlib.Data.Matrix.ColumnRowPartitioned
public import Mathlib.ModelTheory.Arithmetic.Presburger.Semilinear.Defs

import Mathlib.Algebra.Group.Submonoid.Finsupp
import Mathlib.Algebra.Order.Group.Ideal
import Mathlib.Algebra.Order.Pi
import Mathlib.Algebra.Order.Sub.Prod
import Mathlib.Algebra.Order.Sub.Unbundled.Hom
import Mathlib.Data.Pi.Interval
import Mathlib.Data.Rat.Floor
import Mathlib.LinearAlgebra.Matrix.ToLin
import Mathlib.RingTheory.Finiteness.Cardinality
import Mathlib.RingTheory.Localization.Module
```

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean:20]: I'm not sure whether everyone has converged, but this style indeed looks better.

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,788 @@
...
+      { carrier := { y | x + y ∈ s }
+        zero_mem' := by simpa
+        add_mem' := by
+          intro a b ha hb
+          simp only [mem_setOf_eq] at *
+          rw [← add_assoc]
+          exact hs _ hx _ _ ha hb }
+    else ⊥
+  have hf : ∀ x ∈ s, ∀ y, y ∈ f x ↔ x + y ∈ s := by simp_all [f]
+  let g (x : M) : AddSemigroupIdeal M := AddSemigroupIdeal.closure (f x \ {0})
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: nit:
```suggestion
  let g (x : M) : AddSemigroupIdeal M := .closure (f x \ {0})
```

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,788 @@
...
+  classical
+  suffices h : ∀ (a : ι → ℕ) (t : Finset ι), (∀ x ∈ s, ∀ i ∉ t, x i = a i) → IsSemilinearSet s by
+    haveI := Fintype.ofFinite ι
+    exact h 0 Finset.univ (by simp)
+  intro a t ht
+  induction t using Finset.strongInductionOn generalizing s a with | _ t ih
+  by_cases hs' : s = ∅
+  · subst hs'
+    exact IsSemilinearSet.empty
+  rw [← ne_eq, ← Set.nonempty_iff_ne_empty] at hs'
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]:
```suggestion
  obtain rfl | hs' := s.eq_empty_or_nonempty
  · exact .empty
```

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,788 @@
...
+  intro x hx y z hy hz
+  simp only [mem_setOf, map_add, ← add_assoc] at *
+  conv_lhs => rw [hy, ← hx, add_right_comm _ (g y) (f z), hz, add_right_comm _ (g z)]
+
+/-- The set of solutions of a linear equation `a + f x = b + g y`, in a finitely generated monoid,
+is semilinear. -/
+public theorem isSemilinearSet_setOf_eq [AddMonoid.FG M] {F G : Type*} [FunLike F M N]
+    [AddMonoidHomClass F M N] [FunLike G M N] [AddMonoidHomClass G M N] (a b : N) (f : F) (g : G) :
+    IsSemilinearSet { x | a + f x = b + g x } := by
+  rcases fg_iff_exists_fin_addMonoidHom.1 (AddMonoid.FG.fg_top (M := M)) with ⟨n, h, hh⟩
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean:178]:
```suggestion
  rcases fg_iff_exists_fin_addMonoidHom.1 (.fg_top (M := M)) with ⟨n, h, hh⟩
```
no?

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,788 @@
...
+    [FunLike F (ι → ℕ) M] [AddMonoidHomClass F (ι → ℕ) M] [FunLike G (ι → ℕ) M]
+    [AddMonoidHomClass G (ι → ℕ) M] (a b : M) (f : F) (g : G) :
+    IsSemilinearSet { x | a + f x = b + g x } := by
+  apply isSemilinearSet_of_isSlice
+  intro x hx y z hy hz
+  simp only [mem_setOf, map_add, ← add_assoc] at *
+  conv_lhs => rw [hy, ← hx, add_right_comm _ (g y) (f z), hz, add_right_comm _ (g z)]
+
+/-- The set of solutions of a linear equation `a + f x = b + g y`, in a finitely generated monoid,
+is semilinear. -/
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: This doesn't read so well. Maybe
```suggestion
/-- The set of solutions to a linear equation `a + f x = b + g y` in a finitely generated monoid
is semilinear. -/
```
?

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,788 @@
...
+
+private theorem Nat.isSemilinearSet_preimage [Finite ι] {F : Type*}
+    [FunLike F (ι → ℕ) M] [AddMonoidHomClass F (ι → ℕ) M] {s : Set M} (hs : IsSemilinearSet s)
+    (f : F) : IsSemilinearSet (f ⁻¹' s) := by
+  rcases hs with ⟨S, hS, hS', rfl⟩
+  simp_rw [sUnion_eq_biUnion, preimage_iUnion]
+  exact .biUnion hS fun s hs => isSemilinearSet_preimage_of_isLinearSet (hS' s hs) f
+
+/-- The preimage of a semilinear set under an additive homomorphism, in a finitely generated monoid,
+is still semilinear. -/
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: Alternatively, this phrasing could work too:
```suggestion
/-- In a finitely generated monoid, the preimage of a semilinear set under an homomorphism
is semilinear. -/
```

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 16 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: Yeah, "solutions to" sounds much better than "of". I think promote "In a finitely generated monoid" to the beginning would be better.

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 14 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: Thanks!

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 15 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean:178]: This won't work because the goal type is under `AddSubmonoid.FG` namespace

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 17 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: Yeah this looks good. We can (and do) assume everything is additive in this file.

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: However, the "in a finitely generated monoid" sounds like both `M` and `N` are finitely generated, but here we only require `M` to be finitely generated. I now feel "The preimage ... in a finitely generated monoid" is more precise.

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean:178]: Oh right, `AddMonoid.FG.fg_top` is completely misnamed...

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 16 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean]: Same as below, I now feel promoting "in a finitely generated monoid" would sound like both `M` and `N` are finitely generated.

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,786 @@
...
+  · refine .biUnion hs.finite_fundamentalDomain.diff fun i hi => .proj' ?_
+    rw [setOf_and]
+    apply Nat.isSemilinearSet_inter <| Nat.isSemilinearSet_preimage
+      (.closure_of_finite hs.finite_basisSet) (LinearMap.funLeft ℕ ℕ Sum.inr)
+    apply IsSemilinearSet.proj'
+    rw [setOf_and]
+    apply Nat.isSemilinearSet_inter <| Nat.isSemilinearSet_preimage
+      (.closure_of_finite hs.finite_basisSet) (LinearMap.funLeft ℕ ℕ Sum.inr)
+    classical
+    haveI := Fintype.ofFinite ι
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean:621]: We have a slight preferrence for
```suggestion
    cases nonempty_fintype ι
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean (hunk 18 above)
Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean:621]: This doesn't work because I need `DecidableEq` for `One (Matrix ι ι ℕ)` from `classical`. The `cases nonempty_fintype ι` is the same as `haveI := Fintype.ofFinite ι`

Comment (staroperator) [reply Mathlib/ModelTheory/Arithmetic/Presburger/Semilinear/Basic.lean:621]: BTW, is there a Zulip discussion? I have a strong preference for `Fintype.ofFinite`.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
